* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\LT1013D.asc
* Generated by LTspice 24.1.9 for Windows.
V1 +V 0 15
R1 N002 N001 50K
R2 N001 0 5K
V3 N003 0 sine(0 .5 10K)
V2 -V 0 -15
X§U1 N003 N001 +V -V N002 LT1013
.tran 1m
.lib LT1013.sub
.backanno
.end
